US07622469B2
3,6-Dihydro-4-decylamino-2-(4′-methoxyphenethylamino)-1,3, 5-triazine hydrochloride
200 ml of n-butanol, 6 ml (67.8 mmol) of methylal and 0.7 ml of concentrated hydrochloric acid were added to 2.5 g (5.6 mmol) of N1-(4-methoxyphenethyl)-N5-decyl-biguanide dihydrochloride, and the mixture was refluxed for 68 hours. The solvent was distilled of f under reduced pressure, and dissolved in 80% aqueous acetonitrile. The solvent was distilled off under reduced pressure to give a residue, which was purified by silica gel column chromatography (elution with a mixture of chloroform/methanol/acetic acid (8:0.7:0.7)) to obtain 0.7 g of a colorless resinous solid.

reactant | methylal | 67.8 mmol, 6 ml | COCOC | C3H8O2
reactant | hydrochloric acid | 0.7 ml | Cl | ClH
reactant | N1-(4-methoxyphenethyl)-N5-decyl-biguanide dihydrochloride | 5.6 mmol, 2.5 g | Cl.Cl.COC1=CC=C(CCNC(=N)NC(=N)NCCCCCCCCCC)C=C1
solvent | n-butanol | 200 ml | C(CCC)O | C4H10O
product | 3,6-Dihydro-4-decylamino-2-(4′-methoxyphenethylamino)-1,3, 5-triazine hydrochloride | 0.7 g | Cl.C(CCCCCCCCC)NC=1NC(=NCN1)NCCC1=CC=C(C=C1)OC | InChI=1S/C22H37N5O.ClH/c1-3-4-5-6-7-8-9-10-16-23-21-25-18-26-22(27-21)24-17-15-19-11-13-20(28-2)14-12-19;/h11-14H,3-10,15-18H2,1-2H3,(H3,23,24,25,26,27);1H
